US05338853
Preparation of 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[N-(2,2,6,6-tetramethyl-4-piperidinyl)succinamoyl]hydrazine
Into a 3-necked 50 ml flask was introduced a 60.9% solution of ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate in methanol (4.27 g, 0.01 mole), N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-aminosuccinamide (2.7 g, 0.01 mole) and 25 ml of anhydrous methanol. The flask was equipped with a thermometer, a magnetic stirrer and a Dean Stark trap with a reflux condenser. The reaction mixture was heated to reflux for 1/2 hour. Liquid chromatography of the reaction mixture indicated that the starting materials had essentially disappeared and there was one new peak corresponding to the product. The reaction mixture was filtered hot to remove some insoluble material. The filtrate was stripped to dryness on a rotatary evaporator under reduced pressure. The residue was scraped out of the flask and pulverized into a white powder with a mortar and pestle. The white powder was air dried on a watch glass overnight. The product weighed 1.0 grams and had a melting range of 130°-135° C. An infrared scan (nujol mull) of the product contained a strong carbonyl band at 1655 cm-1 and two moderate carbonyl bands at 1575 and 1495 cm-1.

reactant | ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | CC1(NC(CC(C1)NC(C(=O)OCC)=O)(C)C)C | C13H24N2O3
reactant | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-aminosuccinamide | 0.01 mole, 2.7 g | CC1(NC(CC(C1)NC(CCC(=O)NN)=O)(C)C)C | C13H26N4O2
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 0.01 mole, 4.27 g | CO | CH4O
product | 1-[N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamoyl]-2-[N-(2,2,6,6-tetramethyl-4-piperidinyl)succinamoyl]hydrazine | CC1(NC(CC(C1)NC(C(=O)NNC(CCC(=O)NC1CC(NC(C1)(C)C)(C)C)=O)=O)(C)C)C | C24H44N6O4
